US20010046991A1
Acridin-9-yl-[4-(4-methylpiperazin-1 -yl)-phenyl]amine
0.191 g (1.0 mmol) of 4-(4-methylpiperazin-1-yl)aniline, 2.5 ml of methanol and a few drops of concentrated hydrochloric acid were mixed and heated under reflux. The 9-chloroacridine (1-1,5 equivalents) and 2.5 ml methanol were mixed separately and added to the reaction mixture in small portions. After 30 min of stirring, two drops of concentrated hydrochloric acid were added, and heating was continued for 2 h. The reaction mixture was then evaporated to dryness and purified by chromatography (silica gel column; gradient from 100% methylene chloride to 90% methylene chloride and 10% methanol; when 4-(4-methylpiperazin-1-yl)aniline eluted from the column, the eluent was changed to methylene chloride:methanol:triethylamine 94:5:1). A final amount of 0.126 g (34%, overall yield 12%) of the title compound in pure form was obtained.

reactant | 4-(4-methylpiperazin-1-yl)aniline | 1.0 mmol, 0.191 g | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
reactant | 9-chloroacridine | 1-1,5 equivalents | ClC=1C2=CC=CC=C2N=C2C=CC=CC12 | C13H8ClN
catalyst | hydrochloric acid | a few drops | Cl | ClH
catalyst | hydrochloric acid | two drops | Cl | ClH
solvent | methanol | 2.5 ml | CO | CH4O
solvent | methanol | 2.5 ml | CO | CH4O
product | Acridin-9-yl-[4-(4-methylpiperazin-1 -yl)-phenyl]amine | yield 12% | C1=CC=CC2=NC3=CC=CC=C3C(=C12)NC1=CC=C(C=C1)N1CCN(CC1)C | C24H24N4
